US07332501B2
b) 5-Cyclopropyl-2-methyl-oxazole-4-carboxylic Acid Ethyl Ester
2-Acetylamino-2-cyclopropanecarbonyl-malonic acid diethyl ester in DMSO was treated with 2 eq H2O and stirred at room temperature for 6 h then extracted with Et2O to give after concentration the title compound in 34% yield.

reactant | 2-Acetylamino-2-cyclopropanecarbonyl-malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)(C(=O)C1CC1)NC(C)=O)=O | C13H19NO6
reactant | H2O | 2 eq | O | H2O
solvent | DMSO | CS(=O)C | C2H6OS
product | 5-Cyclopropyl-2-methyl-oxazole-4-carboxylic Acid Ethyl Ester | 34% yield | C(C)OC(=O)C=1N=C(OC1C1CC1)C | C10H13NO3
